US08114868B2
To a solution of 6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-isopropyl-1,3-oxazinan-2-one (480 mg, 1.315 mmol) in THF (5 mL) was added BH3.THF (5.3 mL, 5.3 mmol) at 0° C. under N2. The reaction mixture was stirred for 2 h, and quenched with water, 3 M aq NaOH (1 mL), and H2O2 (5 mL). The resulting mixture was stirred for 2 h, extracted with EtOAc, washed with brine, dried over Na2SO4, filtered, and concentrated to afford the crude product, which was purified by prep TLC to give 3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-isopropyl-1,3-oxazinan-2-one. (110 mg, 22% yield). 1H NMR (CDCl3): δ0.88 (m, 6H), 1.45 (m, 3H), 1.60 (m, 4H), 1.71 (m, 1H), 1.82 (m, 1H), 1.99 (m, 1H), 2.63 (m, 1H), 3.03 (m, 1H), 3.59 (m, 2H), 5.68 (m, 1H), 7.13 (d, 2H), 7.40 (d, 2H),

reactant | 6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-isopropyl-1,3-oxazinan-2-one | 1.315 mmol, 480 mg | C(C=C)C1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C(C)C | C18H24BrNO2
reactant | BH3.THF | 5.3 mmol, 5.3 mL | B.C1CCOC1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-isopropyl-1,3-oxazinan-2-one | 22% yield | BrC1=CC=C(C=C1)[C@H](C)N1C(OC(CC1)(C(C)C)CCCO)=O | C18H26BrNO3
